US08895582B2
To a solution of (S)-3-(2-tert-butoxycarbonylaminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate (0.87 g, 1.37 mmol) in DCM (30.0 mL) was added TFA (3.0 mL). The mixture was stirred for 1 h. The mixture was concentrated and dissolved in EtOAc. The EtOAc solution was washed with Na2CO3, brine, dried over Na2SO4, and filtered. To the filtrate was added HCl (4 M in dioxane, 0.7 mL, 2.8 mmol,). The organic solvent was removed under reduced pressure to give (S)-3-(2-aminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate (730 mg, 93%) as a HCl salt. LRMS (M+H+) m/z 535.2.

reactant | (S)-3-(2-tert-butoxycarbonylaminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate | 1.37 mmol, 0.87 g | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CNC(CNC(=O)OC(C)(C)C)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C29H33ClF2N6O6
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 2.8 mmol, 4 M, 0.7 mL | Cl | ClH
solvent | DCM | 30.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(2-aminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate | 730 mg, 93% | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CNC(CN)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H25ClF2N6O4
